US04013670
A mixture of 2.7 g. (0.0063 mole) of finely divided 2.5-bis(2,2,2-trifluoroethoxy)-N-[(1-methyl-2-piperidyl)methyl]-benzamide and 6 ml. of methyl iodide is heated at 56° to 57° C. in a sealed tube for about 90 minutes. The mixture is extracted with methanol, and the methanol extracts are concentrated to provide a crystalline solid which is recrystallized from 50 ml. of ethyl acetate and about 2 ml. of isopropanol, with treatment by decolorizing charcoal. The resulting product is dried to provide white solid 2-[2,5-bis(2,2,2-trifluoroethoxy)benzamidomethyl]-1,1-dimethylpiperidinium iodide, m.p. 170°-172.5° C.

reactant | 2.5-bis(2,2,2-trifluoroethoxy)-N-[(1-methyl-2-piperidyl)methyl]-benzamide | FC(COC1=C(C(=O)NCC2N(CCCC2)C)C=C(C=C1)OCC(F)(F)F)(F)F | C18H22F6N2O3
reactant | methyl iodide | CI | CH3I
product | 2-[2,5-bis(2,2,2-trifluoroethoxy)benzamidomethyl]-1,1-dimethylpiperidinium iodide | [I-].FC(COC1=C(C(=O)NCC2[N+](CCCC2)(C)C)C=C(C=C1)OCC(F)(F)F)(F)F | InChI=1S/C19H24F6N2O3.HI/c1-27(2)8-4-3-5-13(27)10-26-17(28)15-9-14(29-11-18(20,21)22)6-7-16(15)30-12-19(23,24)25;/h6-7,9,13H,3-5,8,10-12H2,1-2H3;1H
